US09403834B2
5-(1-(Benzylamino)-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)-N-(tert-butyl)pyridine-3-sulfonamide (0.150 g, 0.293 mmol) was dissolved in TFA (10 mL) and stirred at 50° C. for 1 h. TFA was removed under reduced pressure and the resulting residue was diluted with saturated sodium bicarbonate (100 mL). The aqueous mixture was extracted with ethyl acetate (3×30 mL). The combined organic extracts were dried over anhydrous sodium sulfate and evaporated under reduced pressure to give a residue which was purified by preparative HPLC (Condition B-5 described in general methods) to yield 5-(1-(benzylamino)-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide (0.060 g, 45.0%) as a white solid. LCMS Method B-3: retention time 1.99 min, [M+1]=457.0. HPLC Method B-1: retention time 6.12 min, Purity 99.48%. 1H NMR (400 MHz, DMSO-d6) δ ppm: 4.67 (d, J=5.6 Hz, 2H), 5.64 (t, J=5.6 Hz, 1H), 6.97 (d, J=2.8 Hz, 1H), 7.25-7.35 (m, 5H), 7.42-7.44 (m, 1H), 7.47-7.50 (m, 2H), 7.55-7.57 (m, 2H), 7.69 (d, J=2.8 Hz, 1H), 7.75 (s, 2H), 8.63 (t, J=2.0 Hz, 1H), 9.16 (d, J=2.0 Hz, 1H), 9.24 (d, J=2.0 Hz, 1H).

reactant | 5-(1-(Benzylamino)-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)-N-(tert-butyl)pyridine-3-sulfonamide | 0.293 mmol, 0.150 g | C(C1=CC=CC=C1)NC=1C=2N(C(=NN1)C=1C=C(C=NC1)S(=O)(=O)NC(C)(C)C)C=CC2C2=CC=CC=C2 | C28H28N6O2S
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(1-(benzylamino)-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide | 0.060 g, 45.0% | C(C1=CC=CC=C1)NC=1C=2N(C(=NN1)C=1C=C(C=NC1)S(=O)(=O)N)C=CC2C2=CC=CC=C2 | C24H20N6O2S
